US07262212B2
2-Chloro-4-nitro-1H-imidazole (3.19 g, 21.6 mmol) and tert-butyl 4-(2-methyloxiran-2-ylmethyl)-piperazine-1-carboxylate (5.53 g, 21.6 mmol) and sodium acetate (1.95 g, 23.8 mmol) were dissolved in 1-propanol (50 ml) followed by stirring under reflux for 48 hours. The reaction mixture was diluted with methylene chloride. The solution was washed with water and a saturated saline solution, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1) and treated with methylene chloride-diisopropyl ether to afford 2-(4-tert-butoxycarbonylpiperazin-1-yl)methyl-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole (1.85 g, yield 23%) as a white powder.

reactant | 2-Chloro-4-nitro-1H-imidazole | 21.6 mmol, 3.19 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | tert-butyl 4-(2-methyloxiran-2-ylmethyl)-piperazine-1-carboxylate | 21.6 mmol, 5.53 g | CC1(OC1)CN1CCN(CC1)C(=O)OC(C)(C)C | C13H24N2O3
reactant | sodium acetate | 23.8 mmol, 1.95 g | C(C)(=O)[O-].[Na+]
solvent | 1-propanol | 50 ml | C(CC)O | C3H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-tert-butoxycarbonylpiperazin-1-yl)methyl-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole | 1.85 g, yield 23% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C16H25N5O5
